### PR TITLE
[Merged by Bors] - chore: split `Topology.Algebra.Module.StrongTopology`

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+
+In this file, we define a type alias `CompactConvergenceCLM` for `E →L[𝕜] F`,
+endowed with the topology of uniform convergence on compact subsets.
+
+More concretely, `CompactConvergenceCLM` is an abbreviation for
+`UniformConvergenceCLM σ F {(S : Set E) | IsCompact S}`. We denote it by `E →SL_c[σ] F`.
+
+Here is a list of type aliases for `E →L[𝕜] F` endowed with various topologies :
+* `UniformConvergenceCLM`: topology of `𝔖`-convergence, for a general `𝔖 : Set (Set E)`
+* `ContinuousLinearMap`: topology of bounded convergence, for a general `𝔖 : Set (Set E)`
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean]:
```suggestion
* `ContinuousLinearMap`: topology of bounded convergence
```

Comment (sgouezel) [reply Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean]: Maybe move it one line above, also, as this is the default topology not using any type synonym. Same thing in the other files.

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean [hunk 2]
```diff
@@ -0,0 +1,485 @@
...
+`𝔖 : Set (Set E)`. It is the topology of uniform convergence on the elements of `𝔖`.
+Similarly to `UniformOnFun`, we define a type synonym `UniformConvergenceCLM` for
+`E →L[𝕜] F` endowed with this topology.
+
+The lemma `UniformOnFun.continuousSMul_of_image_bounded` tells us that this is a
+vector space topology if the continuous linear image of any element of `𝔖` is bounded (in the sense
+of `Bornology.IsVonNBounded`).
+
+The most important examples for such topologies are:
+- the topology of bounded convergence (also called the "strong topology" on the dual spac),
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean]:
```suggestion
- the topology of bounded convergence (also called the "strong topology" on the dual space),
```

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean [hunk 3]
```diff
@@ -0,0 +1,485 @@
...
+theorem ext [TopologicalSpace F] {𝔖 : Set (Set E)} {f g : UniformConvergenceCLM σ F 𝔖}
+    (h : ∀ x, f x = g x) : f = g :=
+  DFunLike.ext f g h
+
+instance instContinuousSemilinearMapClass [TopologicalSpace F] (𝔖 : Set (Set E)) :
+    ContinuousSemilinearMapClass (UniformConvergenceCLM σ F 𝔖) σ E F :=
+  inferInstanceAs <| ContinuousSemilinearMapClass (E →SL[σ] F) σ E F
+
+instance instTopologicalSpace [TopologicalSpace F] [IsTopologicalAddGroup F] (𝔖 : Set (Set E)) :
+    TopologicalSpace (UniformConvergenceCLM σ F 𝔖) :=
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:95]:
```suggestion
    TopologicalSpace (UniformConvergenceCLM σ F 𝔖) := fast_instance%
```

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean [hunk 4]
```diff
@@ -0,0 +1,485 @@
...
+    instTopologicalSpace σ F 𝔖 = TopologicalSpace.induced (UniformOnFun.ofFun 𝔖 ∘ DFunLike.coe)
+      (UniformOnFun.topologicalSpace E F 𝔖) := by
+  rw [instTopologicalSpace]
+  congr
+  exact IsUniformAddGroup.rightUniformSpace_eq
+
+/-- The uniform structure associated with `ContinuousLinearMap.strongTopology`. We make sure
+that this has nice definitional properties. -/
+instance instUniformSpace [UniformSpace F] [IsUniformAddGroup F]
+    (𝔖 : Set (Set E)) : UniformSpace (UniformConvergenceCLM σ F 𝔖) :=
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:109]:
```suggestion
    (𝔖 : Set (Set E)) : UniformSpace (UniformConvergenceCLM σ F 𝔖) := fast_instance%
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:95]: I don't think we usually do `fast_instance%` on instances of `TopologicalSpace` because we care less about the defeq of `IsOpen` than having a convenient expression in terms of the lattice structure and operations on `TopologicalSpace`. In fact, this does break a ton of things below.

Comment (sgouezel) [reply Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:95]: ok, fine. But what about the uniform space below?
